US06294555B1
Preparation of 4-amino-5-chloro-2-methoxy-N-[1-[1-(1-pyrrolidinecarbonyl)-4-piperidinylmethyl]-4-piperidinyl]benzamide (the same of the compound of Example 12)
To 4-amino-5-chloro-2-methoxy-N-[1-(1-phenoxycarbonyl-4-piperidinylmethyl)-4-piperidinyl]benzamide (1 g), which is prepared in the same manner as in Example 1 except that phenyl chloroformate is used instead of dimethylcarbamoyl chloride, is added pyrrolidine (3 ml), and the mixture is heated under reflux for 10 hours. The mixture is concentrated to dryness under reduced pressure, and to the residue is added chloroform. The solution is washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform:methanol=40:1) to give the desired compound (790 mg) as white amorphous.

reactant | 4-amino-5-chloro-2-methoxy-N-[1-(1-phenoxycarbonyl-4-piperidinylmethyl)-4-piperidinyl]benzamide | 1 g | NC1=CC(=C(C(=O)NC2CCN(CC2)CC2CCN(CC2)C(=O)OC2=CC=CC=C2)C=C1Cl)OC | C26H33ClN4O4
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyrrolidine | 3 ml | N1CCCC1 | C4H9N
product | 4-amino-5-chloro-2-methoxy-N-[1-[1-(1-pyrrolidinecarbonyl)-4-piperidinylmethyl]-4-piperidinyl]benzamide | 790 mg | NC1=CC(=C(C(=O)NC2CCN(CC2)CC2CCN(CC2)C(=O)N2CCCC2)C=C1Cl)OC | C24H36ClN5O3
